US04082778
36.15 parts of 1-chloro-4-benzoylaminoanthraquinone, 21.6 parts of 2-chloro-4-nitroaniline and 10 parts of sodium carbonate are stirred in 400 parts of o-dichlorobenzene. A solution of 0.4 part of copper-(I) iodide in 5 parts of pyridine, and 25 parts of toluene, are added and the mixture is heated to the boil -- 160° to 165°. The water liberated is distilled off azeotropically and the toluene is recirculated. After a reaction time of 45 minutes, the reaction product begins to precipitate. The mixture is stirred for 7 hours at 160°-165° and is then allowed to cool. The precipitate is filtered off, washed with o-dichlorobenzene, acetone and hot water, and extracted by boiling with dilute hydrochloric acid. 34.4 parts of 1-(2'-chloro-4'-nitroanilino)-4-benzoylaminoanthraquinone are obtained in the form of a dark powder. The colorant bulk-dyes PES in claret-colored shades of good fastness properties.

reactant | 1-chloro-4-benzoylaminoanthraquinone | ClC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC(C1=CC=CC=C1)=O | C21H12ClNO3
reactant | 2-chloro-4-nitroaniline | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper-(I) iodide | [Cu]I
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(2'-chloro-4'-nitroanilino)-4-benzoylaminoanthraquinone | ClC1=C(NC2=CC=C(C=3C(C4=CC=CC=C4C(C23)=O)=O)NC(C2=CC=CC=C2)=O)C=CC(=C1)[N+](=O)[O-] | C27H16ClN3O5
